US07538233B2
4-(6-Chloro-2-oxo-2H-1-benzopyran-4-yl)-butyramide
4-(6-Chloro-2-oxo-2H-1-benzopyran-4-yl)-butyronitrile (100 mg, 0.4 mmol) is dissolved in conc. H2SO4 (2 mL) and is stirred for 4 hrs. Ice and then H2O (20 mL) is added to the reaction mixture, and the resulting precipitate is filtered and is washed with H2O and Et2O. The solid is dried in vacuo to give the title compound (100 mg, 93%) as a white solid. 1H NMR (DMSO-d6, 400 MHz) δ 7.98 (1H, d, J=2 Hz), 7.68 (1H, dd, J=2, 9 Hz), 7.47 (1H, d, J=9 Hz), 7.32 (1H, broad s), 6.83 (1H, broad s), 6.43 (1H, s), 2.79 (2H, t, J=7 Hz), 2.20 (2H, t, J=7 Hz), 1.82 (2H, q, J=7 Hz); LCMS (MeCN—H2O, Luna 3μ C18(2) 30×4.6 mm) m/z (ES, Pos) calc. for C13H12ClNO3 m/z [M+H]=266, found 266.

reactant | 4-(6-Chloro-2-oxo-2H-1-benzopyran-4-yl)-butyronitrile | 0.4 mmol, 100 mg | ClC=1C=CC2=C(C(=CC(O2)=O)CCCC#N)C1 | C13H10ClNO2
reactant | H2O | 20 mL | O | H2O
solvent | H2SO4 | 2 mL | OS(=O)(=O)O | H2O4S
product | 4-(6-Chloro-2-oxo-2H-1-benzopyran-4-yl)-butyramide | 100 mg, 93% | ClC=1C=CC2=C(C(=CC(O2)=O)CCCC(=O)N)C1 | C13H12ClNO3
